US08304419B2
Step F: 4-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-propyl-1H-imidazole-5-carboxamide
4-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-propyl-1H-imidazole-5-carboxamide was prepared in a similar manner as described herein from 3-chloro-5-({6-chloro-2-fluoro-3-[(methylamino)methyl]phenyl}oxy)benzonitrile (0.062 g, 0.20 mmol), 4-chloro-2-propyl-1H-imidazole-5-carboxylic acid (0.038 g, 0.20 mmol), HATU (0.091 g, 0.24 mmol), DIPEA (0.042 mL, 0.24 mmol) and DMF (2 mL). Purification was accomplished by Reverse-Phase HPLC (water/acetonitrile with 0.1% TFA) to afford the title compound (0.062 g, 64%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.73 (br. s., 1H), 8.12 (br. s., 1H), 7.81-7.84 (m, 1H), 7.45-7.52 (m, 3H), 7.37 (t, 1H), 4.53 (d, 2H), 2.55 (t, 2H), 1.64 (sex, 2H), 0.87 (t, 3H). ES-LCMS: m/z 481.0, 483.0 (M+1).

reactant | 3-chloro-5-({6-chloro-2-fluoro-3-[(methylamino)methyl]phenyl}oxy)benzonitrile | 0.20 mmol, 0.062 g | ClC=1C=C(C#N)C=C(C1)OC1=C(C(=CC=C1Cl)CNC)F | C15H11Cl2FN2O
reactant | 4-chloro-2-propyl-1H-imidazole-5-carboxylic acid | 0.20 mmol, 0.038 g | ClC=1N=C(NC1C(=O)O)CCC | C7H9ClN2O2
reactant | HATU | 0.24 mmol, 0.091 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.24 mmol, 0.042 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-propyl-1H-imidazole-5-carboxamide | 0.062 g, 64% | ClC=1N=C(NC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F)CCC | C21H16Cl3FN4O2
